US08106043B2
tert-Butyl 4-(7-fluoro-6-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)piperidine-1-carboxylate:
To a stirred solution of tert-butyl 4-(6-amino-7-fluoro-2H-benzo[b][1,4]thiazin-4(3H)-yl)piperidine-1-carboxylate (168 mg, 0.457 mmol) in ethanol (5 mL) and triethylamine (0.643 mL, 4.57 mmol) was added methyl thiophene-2-carbimidate hydrochloride (325 mg, 1.829 mmol). The resulting mixture was stirred at 65° C. over the weekend. The mixture was then cooled to room temperature, diluted with ethyl acetate, and washed with saturated sodium carbonate (3×). The organic phase was dried, filtered, and concentrated, and chromatographed in 1:9 ethyl acetate:hexanes giving a yellow oil (18 mg, 8.26%); 1H NMR (MeOD-d4) δ 7.65-7.61 (m, 1H), 7.59-7.54 (m, 1H), 7.14-7.08 (m, 1H), 6.79 (d, J=10.5 Hz, 1H), 6.49 (d, J=7.5 Hz, 1H), 4.22-4.12 (m, 2H), 3.80-3.67 (m, 1H), 3.43-3.38 (m, 2H), 3.05-3.01 (m, 2H), 2.96-2.79 (m, 2H), 1.83-1.73 (m, 2H), 1.72-1.57 (m, 2H), 1.46 (s, 9H); ESI-MS (m/z, %): 477 (MH+, 100).

reactant | tert-butyl 4-(6-amino-7-fluoro-2H-benzo[b][1,4]thiazin-4(3H)-yl)piperidine-1-carboxylate | 0.457 mmol, 168 mg | NC1=CC2=C(SCCN2C2CCN(CC2)C(=O)OC(C)(C)C)C=C1F | C18H26FN3O2S
reactant | triethylamine | 4.57 mmol, 0.643 mL | C(C)N(CC)CC | C6H15N
reactant | methyl thiophene-2-carbimidate hydrochloride | 1.829 mmol, 325 mg | Cl.S1C(=CC=C1)C(OC)=N
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(7-fluoro-6-(thiophene-2-carboximidamido)-2H-benzo[b][1,4]thiazin-4(3H)-yl)piperidine-1-carboxylate | FC=1C(=CC2=C(SCCN2C2CCN(CC2)C(=O)OC(C)(C)C)C1)NC(=N)C=1SC=CC1 | C23H29FN4O2S2
